US07547783B2
Preparation of 2-[1-(2,4,6-trimethylphenylimino)ethyl]-6-[1-(4-propoxy-3,5-diphenylphenylimino)ethyl]pyridine
2-[1-(2,4,6-trimethylphenylimino)ethyl]-6-acetylpyridine (387 mg, 1.38 mmol) and 4-propoxy-3,5-diphenylaniline (440 mg, 1.45 mmol) were dissolved in 50 ml of toluene. To this solution, 4 Å molecular sieves were added. After standing for 1 day the mixture was filtered. The solvent was removed in vacuo. The residue was crystallised from cold ethanol. The product was isolated as a yellow treacle (700 mg) and used as such.

reactant | 2-[1-(2,4,6-trimethylphenylimino)ethyl]-6-acetylpyridine | 1.38 mmol, 387 mg | CC1=C(C(=CC(=C1)C)C)N=C(C)C1=NC(=CC=C1)C(C)=O | C18H20N2O
reactant | 4-propoxy-3,5-diphenylaniline | 1.45 mmol, 440 mg | C(CC)OC1=C(C=C(N)C=C1C1=CC=CC=C1)C1=CC=CC=C1 | C21H21NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[1-(2,4,6-trimethylphenylimino)ethyl]-6-[1-(4-propoxy-3,5-diphenylphenylimino)ethyl]pyridine | CC1=C(C(=CC(=C1)C)C)N=C(C)C1=NC(=CC=C1)C(C)=NC1=CC(=C(C(=C1)C1=CC=CC=C1)OCCC)C1=CC=CC=C1 | C39H39N3O
